US05739351
1.82 cm3 of triethylamine, 2.0 g of 2-methoxy-phenylacetic acid, 25 mg of hydroxybenzotriazole hydrate and 2.54 g of 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide are added to a solution of 3.96 g of (3aS,4S,6S,7aR)-6-cyanomethyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride in 60 cm3 of dichloromethane. The reaction mixture is stirred at room temperature for 20 hours, washed with 50 cm3 of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure. The residue is chromatographed on a silica gel column (particle size 0.06-0.20 mm, diameter 3.6 cm, height 30 cm) under a pressure of 0.5 bar of nitrogen with ethyl acetate, collecting fractions of 100 cm3. Fractions 6 to 16 are concentrated to dryness under reduced pressure (2.7 kPa), the residue is recrystallized from ethyl acetate and then from ethanol, and the crystals are filtered, washed with a little ethanol and ethyl ether, drained and then dried under reduced pressure (2.7 kPa). 1.7 g of (3aS, 4S, 6S, 7aR)-6-cyanomethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl) acetyl]-perhydroisoindol-4-ol are obtained in the form of white crystals. M.p.K =160° C.

reactant | triethylamine | 1.82 cm3 | C(C)N(CC)CC | C6H15N
reactant | 2-methoxy-phenylacetic acid | 2.0 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide | 2.54 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | (3aS,4S,6S,7aR)-6-cyanomethyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride | 3.96 g | Cl.C(#N)C[C@H]1C[C@@]([C@@H]2CNC[C@@H]2C1)(O)C1=C(C=CC=C1)OC
solvent | dichloromethane | 60 cm3 | ClCCl | CH2Cl2
catalyst | hydroxybenzotriazole hydrate | 25 mg | O.OC1=CC=CC=2NN=NC21
product | (3aS, 4S, 6S, 7aR)-6-cyanomethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl) acetyl]-perhydroisoindol-4-ol | 1.7 g | C(#N)C[C@H]1C[C@@]([C@@H]2CN(C[C@@H]2C1)C(CC1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC | C26H30N2O4
